US04593144
Preparation of 2-Nitro-3-Methylbenzotrichloride
9.6 gms of 2-nitro-3-methyl benzal chloride (prepared by chlorination of 2-nitro-m-tolualdehyde with thionyl chloride), 9.6 gms of 2-nitro-3-methyl benzyl chloride, 0.6 gms of n-dodecyl trimethyl ammonium chloride, 160 ml of methylene chloride, 100 ml of carbon tetrachloride, 250 ml of 50% sodium hydroxide, and 10 gms of t-butyl alcohol were charged into a reaction vessel. The mixture was refluxed for 31/2 hours, cooled, solvent extracted, distilled and recrystallized to 16.0 gms of product as determined by GC-Mass spectral analysis.

reactant | 2-nitro-3-methyl benzal chloride | 9.6 gms | [N+](=O)([O-])C1=C(C(Cl)Cl)C=CC=C1C | C8H7Cl2NO2
reactant | 2-nitro-3-methyl benzyl chloride | 9.6 gms | [N+](=O)([O-])C1=C(CCl)C=CC=C1C | C8H8ClNO2
reactant | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 250 ml | [OH-].[Na+]
catalyst | n-dodecyl trimethyl ammonium chloride | 0.6 gms | [Cl-].C(CCCCCCCCCCC)[N+](C)(C)C
solvent | t-butyl alcohol | 10 gms | C(C)(C)(C)O | C4H10O
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Nitro-3-Methylbenzotrichloride | [N+](=O)([O-])C1=C(C=CC=C1C)C(Cl)(Cl)Cl | C8H6Cl3NO2
